US05607956
1-(4-Bromo-3-furyl)-1-(2,4-dimethyl-5-oxazolyl)ethanol
Following the general method of Example 1a but using 5-acetyl-2,4-dimethyloxazole and 4-bromo-3-lithiofuran (Liebigs Ann. Chem., 1986, 625-637), the title compound was prepared.

reactant | 5-acetyl-2,4-dimethyloxazole | C(C)(=O)C1=C(N=C(O1)C)C | C7H9NO2
reactant | 4-bromo-3-lithiofuran | BrC=1C(=COC1)[Li]
product | 1-(4-Bromo-3-furyl)-1-(2,4-dimethyl-5-oxazolyl)ethanol | BrC=1C(=COC1)C(C)(O)C1=C(N=C(O1)C)C | C11H12BrNO3
